US07576091B2
N-(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-benzenesulfonamide
Under anhydrous conditions pyridine (5 mL) was added to 2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamine (148 mg, 0.68 mmol). The mixture was stirred at 60° C. for 1 h before benzenesulfonyl chloride (121 μL, 168 mg, 0.95 mmol) was added. After 16 h the mixture was cooled and evaporated to dryness. Flash column chromatography (20% EtOAc:hexane) gave the title product as a tan solid (86 mg, 35%): mp 265° C. (dec). Anal. RP-HPLC: tR 15.5 min (0-60% MeCN, purity 100%). 1H-NMR (DMSO-d6): δ 8.25 (s, 1H, Py-H), 8.03-7.98 (m, 2H, Ph-H), 7.62-7.55 (m, 3H, Ph-H), 2.92 (m, 4H, CH2—CH2), 2.73 (s, 3H, CH3). 13C-NMR (DMSO-d6): δ 170.15, 160.04, 156.92, 155.66, 153.95, 140.76, 132.51, 128.60, 127.70, 126.97, 118.96, 24.35, 22.94, 19.51. MS (ESI+): m/z 380.97 (M+Na)+.

reactant | 2-methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-ylamine | 0.68 mmol, 148 mg | CC=1SC2=C(CCC=3C=NC(=NC23)N)N1 | C10H10N4S
reactant | benzenesulfonyl chloride | 0.95 mmol, 121 μL, 168 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-benzenesulfonamide | 86 mg, 35% | CC=1SC2=C(CCC=3C=NC(=NC23)NS(=O)(=O)C2=CC=CC=C2)N1 | C16H14N4O2S2
